US05403816
Preparation of methyl 6-(N,N-dimethylamino)-3-hydroxypicolinate (Intermediate No. 2)
2.3 g (8 mmol) of methyl 3-benzyloxy-6-(N,N-dimethylamino)picolinate and 0.3 g of 10% palladium carbon were added to 100 ml of ethyl acetate, and the mixture was hydrogenated under atmospheric pressure. After completion of the reaction, the product was filtered and concentrated to obtain crystals.

reactant | methyl 3-benzyloxy-6-(N,N-dimethylamino)picolinate | 8 mmol, 2.3 g | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)N(C)C)C(=O)OC | C16H18N2O3
catalyst | palladium carbon | 0.3 g | [C].[Pd]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 6-(N,N-dimethylamino)-3-hydroxypicolinate | CN(C)C1=CC=C(C(=N1)C(=O)OC)O | C9H12N2O3
